US06207669B1
N-Methyl-N-(2-methanesulphonyl-ethyl)amine hydrochloride
Methylvinyl sulphone (2.1 g, 19.78 mmol) and methylamine (33% solution in IMS, 40 ml, excess) were mixed and heated at reflux under a nitrogen atmosphere for 6 hours. After standing overnight at room temperature, the mixture was concentrated in vacuo to give a yellow oil, which was treated with ethereal HCl to give a sticky solid. Trituration with absolute ethanol gave the title compound as a white solid which was collected by filtration and dried at 60° C. in vacuo (1.01 g, 5.82 mmol, 29%); δH [2H6]DMSO 9.27 (2H,br s), 3.59 (2H,dd), 3.31 (2H,dd), 2.57 (3H,s).

reactant | Methylvinyl sulphone | 19.78 mmol, 2.1 g | CS(=O)(=O)C=C | C3H6O2S
reactant | methylamine | 40 ml | CN | CH5N
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-Methyl-N-(2-methanesulphonyl-ethyl)amine hydrochloride | Cl.CNCCS(=O)(=O)C | InChI=1S/C4H11NO2S.ClH/c1-5-3-4-8(2,6)7;/h5H,3-4H2,1-2H3;1H
